US07705025B2
5-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-sulfonic acid amide
The title compound is prepared in a manner substantially analogous to General Procedure D in 9 mL 50% DMF/dichloromethane using 4-(5-Sulfamoyl-thiophen-2-yl)-benzoic acid, lithium salt (173 mg, 0.61 mmol), EDC-HCl (174 mg, 0.91 mmol), HOBt (123 mg, 0.91 mmol), DIEA (0.26 mL, 1.5 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (79 mg, 0.51 mmol) to give the title compound (74 mg, 34% yield). MS (ES+) 420.2 (M+H)+

reactant | 4-(5-Sulfamoyl-thiophen-2-yl)-benzoic acid | S(N)(=O)(=O)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C11H9NO4S2
reactant | lithium | 0.61 mmol, 173 mg | [Li] | Li
reactant | EDC-HCl | 0.91 mmol, 174 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.91 mmol, 123 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.5 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.51 mmol, 79 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 9 mL | CN(C)C=O.ClCCl
product | 5-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-sulfonic acid amide | 74 mg, 34% yield | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N | C20H25N3O3S2
